* Auto-generated simplified macromodel for OP284
* Original file: OP284.lib
* Original vendor: ADI
*
* This model is intentionally approximate.
* It replaces a complex vendor PSpice/LTspice model with
* a single-pole op-amp macromodel suitable for:
*   - small-signal AC gain
*   - bandwidth estimation
*   - rough noise analysis
* It is NOT intended for detailed transient/THD accuracy.
*
.SUBCKT OP284 VPLUS VMINUS VOUT VCC VEE
* Power rails are currently not used in the small-signal model.
* Differential input to internal high-gain node
EOPAMP_INT NINT 0 VPLUS VMINUS 200000
* Buffer and dominant pole at the output
RBUF NINT VOUT 1
RPOLE VOUT 0 1000
CPOLE VOUT 0 7.95775e-06
.ENDS OP284
