*$
* OPAx210
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPAx210
* Date: 04MAY2022
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS924H - SEPTEMBER 2018 - REVISED AUGUST 2021
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.2
*
*****************************************************************************
*
* Updates:
*
* Final 1.2
* 1. Modified the capacitor(C14) value from 1F to 10uF in GND Float-IQ block  
*    to resolve the convergence issue in single and asymmetric supply test.
* 2. Added Rdiff (R_DIFF).
*
* Final 1.1
* Updated the following parameters:
*  1. CMRR Block
*  2. Current Noise
*  3. CLAW Curve
*  4. Overload Recovery 
*  5. Output Impedance Curve
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    a. OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
*    b. UNITY GAIN BANDWIDTH (GBW)
*    c. INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
*    d. POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
*    e. DIFFERENTIAL INPUT IMPEDANCE (Zid)
*    f. COMMON-MODE INPUT IMPEDANCE (Zic)
*    g. OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
*    h. OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
*    i. INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
*    j. INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
*    k. OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
*    l. SHORT-CIRCUIT OUTPUT CURRENT (Isc)
*    m. QUIESCENT CURRENT (Iq)
*    n. SETTLING TIME VS. CAPACITIVE LOAD (ts)
*    o. SLEW RATE (SR)
*    p. SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
*    q. LARGE SIGNAL RESPONSE
*    r. OVERLOAD RECOVERY TIME (tor)
*    s. INPUT BIAS CURRENT (Ib)
*    t. INPUT OFFSET CURRENT (Ios)
*    u. INPUT OFFSET VOLTAGE (Vos)
*    v. INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
*    w. INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
*    x. INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
*    y. INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
* 2. OPAx210 model is available in single core(OPA210) and dual core(OPA2210).  
*****************************************************************************
.SUBCKT OPAx210 IN+ IN- VCC VEE OUT  
*****************************************************************************
C_C1           N5296613 N5296623  2.28N   
C_C10          N5298247 N5298259  3.98U   
C_C108         N5298821 MID  75.1F   
C_C113         N5296597 N5296587  2.65N   
C_C123         N5296637 N5296643  758P   
C_C126         MID N5300373  39.8F   
C_C127         N5298547 N5298539  15.9F   
C_C129         N5298855 MID  3.54E-17   
C_C13          N5302951 0  1F   
C_C130         MID N52998091  6.12P   
C_C131         N5331892 N5331902  199P   
C_C132         N5298889 MID  3.54E-17   
C_C133         N5354255 N5356232  6.92P   
C_C134         N5298977 N5298999  153P   
C_C14          0 N5302475  10U   
C_C15          N5302991 0  1F   
C_C16          N5301567 MID  1F   
C_C17          N5302227 MID  1F   
C_C18          N5301581 MID  1F   
C_C19          N5302261 MID  1F   
C_C20          N5301595 MID  1F   
C_C21          N5302295 MID  1F   
C_C22          MID N5301537  1F   
C_C23          N5303823 MID  1F   
C_C24          N5304615 MID  1F   
C_C25          N5304181 MID  1P   
C_C26          N5304435 MID  1P   
C_C27          SW_OL_OPAx210 MID  1P   
C_C29          VIMON MID  1N   
C_C30          VOUT_S MID  1N   
C_C4           N5299343 MID  1F   
C_C5           CLAMP MID  39.8N   
C_C70          VCLP MID  1P   
C_C_COM0       ESDP MID  500F   
C_C_COM1       MID ESDN  500F   
C_C_DIFF       ESDN ESDP  9P   
E_E1           MID 0 N5302475 0 1
E_E3           N5297811 MID OUT MID 1
E_E4           N5297995 MID CL_CLAMP MID 1
G_G1           N5296613 MID ESDP MID -714.3U
G_G101         N5300195 MID N5299035 MID -1
G_G102         N5298539 MID N5299057 MID -1
G_G103         N5331892 MID N5296623 MID -1
G_G104         N5336063 MID N5331902 MID -1.14K
G_G105         N5354255 MID N5298889 MID -1
G_G106         N5298911 MID N5356232 MID -435
G_G107         CL_CLAMP MID CLAW_CLAMP MID -1M
G_G18          VCC_B 0 VCC 0 -1
G_G19          VEE_B 0 VEE 0 -1
G_G2           N5297653 N5297649 N5336063 MID -1M
G_G20          VCC_CLP MID N5303823 MID -1M
G_G21          VEE_CLP MID N5304615 MID -1M
G_G22          N5304315 MID N5304303 MID -1
G_G23          N5304383 MID N5304405 MID -1
G_G39          N5298247 MID CL_CLAMP N5298565 -88.5
G_G5           N5297697 N5297689 N5296587 N5296643 -1M
G_G6           VSENSE MID CLAMP MID -1M
G_G79          N5298821 MID VSENSE MID -1U
G_G80          N5298855 MID N5298821 MID -1U
G_G84          N5299017 MID N5298999 MID -1.39
G_G85          N5296597 MID VCC_B MID -835M
G_G86          N5298977 MID N5298259 MID -1.13K
G_G93          N5298889 MID N5298855 MID -1U
G_G96          N5296637 MID VEE_B MID -239M
G_G97          CLAW_CLAMP MID N5298911 MID -1M
I_I_B          N5298577 MID DC 300P  
I_I_OS         ESDN MID DC 200P  
I_I_Q          VCC VEE DC 2.2M  
R_R15          N5297689 N5297653 R_NOISELESS 1M
R_R16          N5297697 N5297689 R_NOISELESS 1K
R_R167         N5297995 VCLP R_NOISELESS 100
R_R17          N5300247 ESDN R_NOISELESS 1M
R_R178         N5299057 N5300195 R_NOISELESS 30K
R_R179         N5300373 N5299057 R_NOISELESS 10K
R_R18          MID N5298335 R_NOISELESS 1T
R_R19          MID N5300937 R_NOISELESS 1T
R_R20          N5299325 MID R_NOISELESS 1
R_R21          N5299343 N5299325 R_NOISELESS 1M
R_R22          MID N5298735 R_NOISELESS 1MEG
R_R23          MID CLAMP R_NOISELESS 1MEG
R_R24          MID VSENSE R_NOISELESS 1K
R_R266         MID N5298821 R_NOISELESS 1MEG
R_R267         MID N5298855 R_NOISELESS 1MEG
R_R273         N5296587 N5296597 R_NOISELESS 100MEG
R_R274         MID N5296587 R_NOISELESS 6
R_R275         MID N5296597 R_NOISELESS 1
R_R291         MID N5298889 R_NOISELESS 1MEG
R_R297         N5296643 N5296637 R_NOISELESS 100MEG
R_R300         MID N5296643 R_NOISELESS 21
R_R301         MID N5296637 R_NOISELESS 1
R_R306         MID CLAW_CLAMP R_NOISELESS 1K
R_R307         MID N5298539 R_NOISELESS 1
R_R308         N5298547 N5298539 R_NOISELESS 10K
R_R309         MID N5298547 R_NOISELESS 101
R_R314         N5299035 N5299017 R_NOISELESS 175K
R_R315         N52998091 N5299035 R_NOISELESS 10K
R_R316         MID N5299017 R_NOISELESS 1
R_R317         MID N5300195 R_NOISELESS 1
R_R318         N5331902 N5331892 R_NOISELESS 10K
R_R319         MID N5331892 R_NOISELESS 1
R_R320         MID N5331902 R_NOISELESS 8.78
R_R321         MID N5336063 R_NOISELESS 1
R_R322         MID N5354255 R_NOISELESS 1
R_R323         N5356232 N5354255 R_NOISELESS 10K
R_R324         MID N5356232 R_NOISELESS 23.1
R_R325         MID N5298911 R_NOISELESS 1
R_R326         MID CL_CLAMP R_NOISELESS 1K
R_R34          N5298259 N5298247 R_NOISELESS 10K
R_R35          MID N5298247 R_NOISELESS 1
R_R36          MID N5298259 R_NOISELESS 8.9
R_R37          MID N5298977 R_NOISELESS 1
R_R38          N5298999 N5298977 R_NOISELESS 10K
R_R39          MID N5298999 R_NOISELESS 25.32K
R_R43          MID N5299111 R_NOISELESS 1
R_R46          VCC_B 0 R_NOISELESS 1
R_R47          VCC_B N5302951 R_NOISELESS 1M
R_R48          N5302951 N5302475 R_NOISELESS 1MEG
R_R49          N5302475 0 R_NOISELESS 1T
R_R5           MID N5296613 R_NOISELESS 1
R_R50          N5302475 N5302991 R_NOISELESS 1MEG
R_R51          N5302991 VEE_B R_NOISELESS 1M
R_R52          VEE_B 0 R_NOISELESS 1
R_R53          VCC_CLP MID R_NOISELESS 1T
R_R54          N5301563 MID R_NOISELESS 1
R_R55          N5301567 N5301563 R_NOISELESS 1M
R_R56          VEE_CLP MID R_NOISELESS 1T
R_R57          N5302333 MID R_NOISELESS 1
R_R58          N5302227 N5302333 R_NOISELESS 1M
R_R59          N5301533 MID R_NOISELESS 1T
R_R6           N5296623 N5296613 R_NOISELESS 10K
R_R60          N5301577 MID R_NOISELESS 1
R_R61          N5301581 N5301577 R_NOISELESS 1M
R_R62          N5302261 N5302369 R_NOISELESS 1M
R_R63          N5302495 MID R_NOISELESS 1T
R_R64          N5302369 MID R_NOISELESS 1
R_R65          N5301543 MID R_NOISELESS 1T
R_R66          N5301591 MID R_NOISELESS 1
R_R67          N5301595 N5301591 R_NOISELESS 1M
R_R68          N5302295 N5302405 R_NOISELESS 1M
R_R69          N5302499 MID R_NOISELESS 1T
R_R7           MID N5296623 R_NOISELESS 1.4
R_R70          N5302405 MID R_NOISELESS 1
R_R71          N5301537 VSENSE R_NOISELESS 1M
R_R72          VCC_B N5303741 R_NOISELESS 1K
R_R73          N5303741 N5303823 R_NOISELESS 1M
R_R74          N5304593 VEE_B R_NOISELESS 1K
R_R75          N5304593 N5304615 R_NOISELESS 1M
R_R76          MID VCC_CLP R_NOISELESS 1K
R_R77          VEE_CLP MID R_NOISELESS 1K
R_R78          N5304383 MID R_NOISELESS 1
R_R79          N5304315 MID R_NOISELESS 1
R_R8           N5297653 N5297649 R_NOISELESS 1K
R_R80          V11 N5304181 R_NOISELESS 100
R_R81          V12 N5304435 R_NOISELESS 100
R_R82          N5304195 MID R_NOISELESS 1
R_R83          N5304195 SW_OL_OPAx210 R_NOISELESS 100
R_RDUMMY       MID N5298565 R_NOISELESS 23.5K
R_RS_INN       IN- ESDN R_NOISELESS 10M
R_RS_INP       IN+ ESDP R_NOISELESS 10M
R_RX           N5298565 N5299111 R_NOISELESS 235K
R_RX1          MID N5298043 R_NOISELESS 1T
R_RX2          VIMON N5298043 R_NOISELESS 100
R_RX3          MID N5297811 R_NOISELESS 1T
R_RX4          VOUT_S N5297811 R_NOISELESS 100
R_R_CM1        ESDP MID R_NOISELESS 1T
R_R_CM2        MID ESDN R_NOISELESS 1T
R_R_DIFF       ESDN ESDP R_NOISELESS 100MEG
V_VCM_MAX      N5298335 VCC_B -1.5
V_VCM_MIN      N5300937 VEE_B 1.5
V_V_GRN        N5302499 MID -205
V_V_GRP        N5301543 MID 205
V_V_ISCN       N5302495 MID -55.5
V_V_ISCP       N5301533 MID 55.5
V_V_ORN        N5304303 VCLP -3.25
V_V_ORP        N5304405 VCLP 3.25
X_H1           N5298565 OUT N5298043 MID BLOCK_DC_H1_OPAx210 
X_H2           N5303803 N5304383 V12 MID BLOCK_DC_H2_OPAx210 
X_H3           N5303747 N5304315 V11 MID BLOCK_DC_H3_OPAx210 
X_S1           N5303747 CLAMP N5303747 CLAMP BLOCK_DC_S1_OPAx210 
X_S2           CLAMP N5303803 CLAMP N5303803 BLOCK_DC_S2_OPAx210 
X_U10          VCC_CLP VEE_CLP VOUT_S MID N5301563 N5302333 CLAMP_AMP_LO_OPAx210 PARAMS:
+  G=1
X_U11          N5301533 N5302495 VIMON MID N5301577 N5302369 CLAMP_AMP_LO_OPAx210
+  PARAMS: G=1
X_U12          N5301543 N5302499 N5301537 MID N5301591 N5302405 CLAMP_AMP_HI_OPAx210
+  PARAMS: G=10
X_U16          MID N5304195 N5304181 N5304435 OL_SENSE_OPAx210
X_U18          VIMON MID N5303741 VCC_B CLAWP_OPAx210
X_U19          MID VIMON VEE_B N5304593 CLAWN_OPAx210
X_U20          ESDN ESDP ESD_BB_OPAX210
X_U21          OUT VCC VEE ESD_OUT_OPAx210 
X_U22          N5301581 N5302261 CL_CLAMP MID CL_SRC_OPAx210 PARAMS: GAIN=1 IPOS=1.64E1
+  INEG=-1.64E1
X_U23          N5301595 N5302295 CLAMP MID GR_SRC_OPAx210 PARAMS: GAIN=1 IPOS=0.6E1
+  INEG=-0.6E1
X_U25          SW_OL_OPAx210 MID N5298247 N5298259 SW_OL_OPAx210 
X_U26          VIMON MID VCC MID IQ_SRC_OPAx210 PARAMS: GAIN=1E-3
X_U27          MID VIMON MID VEE IQ_SRC_OPAx210 PARAMS: GAIN=1E-3
X_U30          N5299343 N5300247 MID N5298735 AOL_1_OPAx210 PARAMS: GAIN=1E-4 IPOS=.5
+  INEG=-.5
X_U31          N5298735 MID MID CLAMP AOL_2_OPAx210 PARAMS: GAIN=4.38E-2 IPOS=0.255
+  INEG=-0.255
X_U32          N5298547 MID MID N5299111 ZO_SRC_OPAx210 PARAMS: GAIN=100 IPOS=2.61E6
+  INEG=-2.61E6
X_U35          N5301567 N5302227 CLAW_CLAMP MID CLAW_SRC_OPAx210 PARAMS: GAIN=1
+  IPOS=0.82E1 INEG=-0.82E1
X_U39          N5298577 MID FEMT_OPAx210 PARAMS: FLWF=0.1 GLFF=1.207 RNVF=193.247E3
X_U4           N5297649 N5298577 VOS_DRIFT_OPAx210 PARAMS: DC=3.5E-6 POL=1 DRIFT=1E-7
X_U40          ESDN MID FEMT_OPAx210 PARAMS: FLWF=0.1 GLFF=1.207 RNVF=193.247E3
X_U43          ESDP N5298577 VNSE_OPAx210 PARAMS: FLW=0.1 GLF=7.24E-3 RNV=6.1821
X_U5           ESDN ESDP VCC VEE ESD_IN_OPAx210
X_U6           N5297697 MID N5299325 MID N5298335 N5300937 VCM_CLAMP_OPAx210 PARAMS:
+  GAIN=1
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.ENDS OPAx210
*
.SUBCKT BLOCK_DC_H1_OPAx210 1 2 3 4  
H_H1         3 4 VH_H1 1K
VH_H1         1 2 0V
.ENDS  BLOCK_DC_H1_OPAx210
*
.SUBCKT BLOCK_DC_H2_OPAx210 1 2 3 4  
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ENDS  BLOCK_DC_H2_OPAx210
*
.SUBCKT BLOCK_DC_H3_OPAx210 1 2 3 4  
H_H3         3 4 VH_H3 -1
VH_H3         1 2 0V
.ENDS  BLOCK_DC_H3_OPAx210
*
.SUBCKT BLOCK_DC_S1_OPAx210 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S1_OPAx210
*
.SUBCKT BLOCK_DC_S2_OPAx210 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S2_OPAx210
*
.SUBCKT AOL_1_OPAx210 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-4 IPOS=.5 INEG=-.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_OPAx210
*
.SUBCKT AOL_2_OPAx210 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=4.38E-2 IPOS=0.255 INEG=-0.255
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_OPAx210
*
.SUBCKT CLAMP_AMP_HI_OPAx210 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_HI_OPAx210
*
.SUBCKT CLAMP_AMP_LO_OPAx210 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_OPAx210
*
.SUBCKT CLAWN_OPAx210 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 3.3E-5)
+(47.5, 6.98E-4)
+(50,   1.23E-3)
+(51,   1.66E-3)
+(52,    2.2E-3)
+(53,   2.93E-3)
+(54,   3.65E-3)
+(55,   4.51E-3)
+(55.5, 5.12E-3)
.ENDS  CLAWN_OPAx210
*
.SUBCKT CLAWP_OPAx210 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,     3.3E-5)
+(35,   7.18E-4)
+(40,   9.24E-4)
+(45,   1.41E-3)
+(50,    2.5E-3)
+(51,   2.87E-3)
+(52,   3.29E-3)
+(53,   4.19E-3)
+(54.5, 5.55E-3)
+(55.5,  7.3E-3)
.ENDS  CLAWP_OPAx210
*
.SUBCKT CLAW_SRC_OPAx210 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.82E1  INEG=-0.82E1 
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_OPAx210
*
.SUBCKT CL_SRC_OPAx210 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=1.64E1 INEG=-1.64E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_OPAx210
*
.SUBCKT ESD_BB_OPAx210 ESDN ESDP
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=700E-3 VOFF=650E-3)
S1 ESDN ESDP ESDN ESDP ESD_SW
S2 ESDP ESDN ESDP ESDN ESD_SW
.ENDS  ESD_BB_OPAx210
*
.SUBCKT ESD_IN_OPAx210 ESDN ESDP VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 ESDN VCC ESDN VCC ESD_SW
S2 ESDP VCC ESDP VCC ESD_SW
S3 VEE ESDN VEE ESDN ESD_SW
S4 VEE ESDP VEE ESDP ESD_SW
.ENDS  ESD_IN_OPAx210
*
.SUBCKT ESD_OUT_OPAx210 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 OUT VCC OUT VCC ESD_SW
S2 VEE OUT VEE OUT ESD_SW
.ENDS  ESD_OUT_OPAx210
*
.SUBCKT FEMT_OPAx210 1 2 PARAMS: FLWF=0.1 GLFF=1.207 RNVF=193.247E3
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS  FEMT_OPAx210
*
.SUBCKT GR_SRC_OPAx210 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.6E1 INEG=-0.6E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  GR_SRC_OPAx210
*
.SUBCKT IQ_SRC_OPAx210 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_OPAx210
*
.SUBCKT OL_SENSE_OPAx210 COM SW+ OLN OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>5E-3 | V(OLP,COM)>5E-3),1,0)}
.ENDS  OL_SENSE_OPAx210
*
.SUBCKT SW_OL_OPAx210 SW_OL_OPAx210 MID CAP_L CAP_R
.MODEL OL_SW VSWITCH(RON=1E-3 ROFF=1E9 VON=900E-3 VOFF=800E-3)
S1 CAP_L CAP_R SW_OL_OPAx210 MID OL_SW
.ENDS  SW_OL_OPAx210
*
.SUBCKT VCM_CLAMP_OPAx210 VIN+ VIN- IOUT- IOUT+ VP+ VP- PARAMS: GAIN=1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_OPAx210
*
.SUBCKT VNSE_OPAx210 1 2 PARAMS: FLW=0.1 GLF=7.24E-3 RNV=6.1821
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_OPAx210
*
.SUBCKT VOS_DRIFT_OPAx210 VOS+ VOS- PARAMS: DC=3.5E-6 POL=1 DRIFT=1E-7
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_OPAx210
*
.SUBCKT ZO_SRC_OPAx210 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=100 IPOS=2.61E6 INEG=-2.61E6
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  ZO_SRC_OPAx210
*
